US03994974
In 150 ml. of a 50% aqueous acetic acid solution there was dissolved 30 g. of 4-benzyloxy-3-nitro-α-(N-benzyl-N-tert-butylaminomethyl) benzyl alcohol and after adding to the solution 12 g. of iron powder, the mixture was refluxed for 25 minutes, accompanied by heating. While the reaction mixture was still hot, it was filtered and the filtrate was concentrated under a reduced pressure. Then, after adding to the residue 50 ml. of a 10% aqueous sodium carbonate solution, the product was extracted with benzene. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crystalline residue. By recrystallizing the product from a mixture of 40 ml. of benzene and 60 ml. of n-hexane, 23 g. of 3-amino-4-benzyloxy-α-(N-benzyl-N-tert-butylaminomethyl) benzyl alcohol melting at 68°-69° C was obtained.

reactant | 4-benzyloxy-3-nitro-α-(N-benzyl-N-tert-butylaminomethyl) benzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=C(C(CN(C(C)(C)C)CC2=CC=CC=C2)O)C=C1)[N+](=O)[O-] | C26H30N2O4
catalyst | iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-amino-4-benzyloxy-α-(N-benzyl-N-tert-butylaminomethyl) benzyl alcohol | NC=1C=C(C(CN(C(C)(C)C)CC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C26H32N2O2
